US08049006B2
tert-butyl 4-(1-aminopropyl)benzoate Hydrochloride (Compound S86)
To copper (I) iodide (3.1 g) in diethylether (70 ml) suspension, ethylmagnesium bromide (0.89M tetrahydrofuran solution) (35 ml) was added at −23° C. and the mixture was stirred at that temperature for 20 minutes. Next, tert-butyl 4-formylbenzoate (3 g) in diethylether (10 ml) solution was added to the reaction solution and the mixture was stirred at −23° C. for 30 minutes. Saturated ammonium chloride aqueous solution and 28% ammonia water were added to the reaction solution, the mixture was stirred at room temperature for 40 minutes, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with distilled water and saturated saline, dried over with anhydrous sodium sulfate, then concentrated. The obtained compound (3.7 g) was used as an starting material instead of the starting material of Reference Example 83, that is, the compound S82, while 4N hydrochloric acid/ethyl acetate was used instead of L-tartaric acid for the similar procedure as in Reference Example 83 to obtain the title compound.

reactant | ethylmagnesium bromide | 0.89M, 35 ml | C(C)[Mg]Br
reactant | tert-butyl 4-formylbenzoate | 3 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia water | O.N
solvent | diethylether | 70 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
catalyst | copper (I) iodide | 3.1 g | [Cu]I
product | tert-butyl 4-(1-aminopropyl)benzoate Hydrochloride | Cl.NC(CC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | InChI=1S/C14H21NO2.ClH/c1-5-12(15)10-6-8-11(9-7-10)13(16)17-14(2,3)4;/h6-9,12H,5,15H2,1-4H3;1H
